US04818431
10 g of 3-p-propylphenyl-4,5-dihydro-6H-pyran (obtainable by hydrolysis of 3-bromotetrahydropyran to give 3-hydroxytetrahydropyran, reaction with p-propylphenyl magnesium bromide to give 3-p-propylphenyl-3-hydroxy-tetrahydropyran followed by dehydration) are dissolved in 100 ml of ethanol and hydrogenated to standstill on 2 g of Raney nickel at 20° under 3 atmospheres. After decantation and evaporation, 3-p-propylphenyltetrahydropyran is obtained.

reactant | 3-p-propylphenyl-4,5-dihydro-6H-pyran | 10 g | C(CC)C1=CC=C(C=C1)C1=COCCC1 | C14H18O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 3-p-propylphenyltetrahydropyran | C(CC)C1=CC=C(C=C1)C1COCCC1 | C14H20O
